US07696216B2
A. Synthesis of {2-[(2,3-dimethoxy-quinoxalin-6-ylmethyl)-amino]-5-prop-2-ynyloxy-phenyl}-(4-isopropyl-phenyl)-methanone
To a solution of 82 mg (0.280 mmol) (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone in 3 ml dioxane is added 193 mg (1.40 mmol) potassium carbonate and 119 mg (0.419 mmol) 6-Bromomethyl-2,3-dimethoxy-quinoxalin. The mixture is stirred at 80° C. for two days, diluted with water and extracted with CH2Cl2. Purification of the crude product by chromatography (ethyl acetate/hexanes 1:1) affords a yellow oil.

reactant | (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.280 mmol, 82 mg | NC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C19H19NO2
reactant | potassium carbonate | 1.40 mmol, 193 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-Bromomethyl-2,3-dimethoxy-quinoxalin | 0.419 mmol, 119 mg | BrCC=1C=C2N=C(C(=NC2=CC1)OC)OC | C11H11BrN2O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | {2-[(2,3-dimethoxy-quinoxalin-6-ylmethyl)-amino]-5-prop-2-ynyloxy-phenyl}-(4-isopropyl-phenyl)-methanone | COC1=NC2=CC=C(C=C2N=C1OC)CNC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C30H29N3O4
